US05234946
1.4 g of 3-bromomethylbenzaldehyde was dissolved in 3 ml of dimethylformamide, and the solution was added to 5 ml of a tetrahydrofuran solution of phenolate, prepared from 1.5 g of 3-bromophenol and 0.36 g of 60% oily sodium hydride. The mixture was stirred for 2 hours at room temperature. The solvent was evaporated, and water and ethyl acetate were added to the residue to extract it. The extract was worked up in a customary manner to give crude 3-(3-bromophenoxymethyl)benzaldehyde. When the same reaction as in Referential Example 12 was performed using 440 mg of the resulting aldehyde compound, 747 mg of tributyl(3-thienyl)stannane and 10 mg of tetrakis(triphenylphosphine)palladium, 341 mg (yield 77%) of 3-[3-(3-thienyl)phenoxymethyl)benzaldehyde was obtained.

reactant | 3-bromomethylbenzaldehyde | 1.4 g | BrCC=1C=C(C=O)C=CC1 | C8H7BrO
reactant | phenolate | C1(=CC=CC=C1)[O-]
reactant | 3-bromophenol | 1.5 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | sodium hydride | 0.36 g | [H-].[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(3-bromophenoxymethyl)benzaldehyde | BrC=1C=C(OCC=2C=C(C=O)C=CC2)C=CC1 | C14H11BrO2
